US20010053785A1
2-[4′-(2-Butyl-benzo[b]thiopen-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid
The tide compound was prepared from 4′-(2-butyl-benzo[b]-thiophen-3-yl)-biphenyl-4-ol, and 3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h, and was obtained as a white solid, mp 159-161° C.; MS m/e 507 (M+H)+;

reactant | 4′-(2-butyl-benzo[b]-thiophen-3-yl)-biphenyl-4-ol | C(CCC)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)O | C24H22OS
reactant | 3-phenyllactic acid methyl ester | COC(C(O)CC1=CC=CC=C1)=O | C10H12O3
product | 2-[4′-(2-Butyl-benzo[b]thiopen-3-yl)-biphenyl-4-yloxy]-3-phenyl-propionic acid | C(CCC)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)OC(C(=O)O)CC2=CC=CC=C2 | C33H30O3S
